US04936892
3.7 ml (0.038 mol) of acetic anhydride are added to 100 g (0.036 mol) of 5-amino-1-(2-chloro-6-fluoro-4-trifluoromethylphenyl)-pyrazole in 60 ml of glacial acetic acid, and the mixture is stirred at room temperature for 9 hours. For working-up, the reaction mixture is added dropwise to 300 ml of ice-water, and the precipitate formed is filtered off, washed with water and dried in vacuo at 50° C. 8.9 g (77% of theory) of 5-acetamido-1-(2-chloro-6-fluoro-4-trifluoromethylphenyl)-pyrazole of melting point 144°-146° C. are obtained.

reactant | acetic anhydride | 0.038 mol, 3.7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-amino-1-(2-chloro-6-fluoro-4-trifluoromethylphenyl)-pyrazole | 0.036 mol, 100 g | NC1=CC=NN1C1=C(C=C(C=C1F)C(F)(F)F)Cl | C10H6ClF4N3
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 5-acetamido-1-(2-chloro-6-fluoro-4-trifluoromethylphenyl)-pyrazole | 8.9 g, 77% | C(C)(=O)NC1=CC=NN1C1=C(C=C(C=C1F)C(F)(F)F)Cl | C12H8ClF4N3O
